US08470859B2
5-chloro-1-(2,3-dihydro-1,4-benzodioxin-2-ylmethyl)-2-imino-1,2-dihydropyridine-3-carboxamide hydrochloride
According to the method of Example 160, 2-cyano-2-(3,4-dichloro-5-oxo-2,5-dihydrofuran-2-yl)acetamide was reacted with 1-(2,3-dihydro-1,4-benzodioxin-2-yl) methanamine to give the title compound.

reactant | 2-cyano-2-(3,4-dichloro-5-oxo-2,5-dihydrofuran-2-yl)acetamide | C(#N)C(C(=O)N)C1OC(C(=C1Cl)Cl)=O | C7H4Cl2N2O3
reactant | 1-(2,3-dihydro-1,4-benzodioxin-2-yl) methanamine | O1C(COC2=C1C=CC=C2)CN | C9H11NO2
product | 5-chloro-1-(2,3-dihydro-1,4-benzodioxin-2-ylmethyl)-2-imino-1,2-dihydropyridine-3-carboxamide hydrochloride | Cl.ClC=1C=C(C(N(C1)CC1COC2=C(O1)C=CC=C2)=N)C(=O)N | InChI=1S/C15H14ClN3O3.ClH/c16-9-5-11(15(18)20)14(17)19(6-9)7-10-8-21-12-3-1-2-4-13(12)22-10;/h1-6,10,17H,7-8H2,(H2,18,20);1H
